US09428511B2
To a solution of (3R,4R)-1-benzyl-3-ethyl-N—((S)-1-phenylethyl)piperidin-4-amine (679.2 mg, 2.106 mmol) in 1,2-dichloroethane (3.50 ml) at 0° C. was added 1-chloroethyl chloroformate (0.276 ml, 2.53 mmol) dropwise. After stirring for 20 minutes, the ice-bath was removed and the reaction was heated to reflux for 1 hr. The reaction was cooled to room temperature and concentrated under reduced pressure. Methanol (10.5 ml) was added, and the reaction was heated to reflux for 2 hrs. After removal of the solvent, the residue was partitioned between ethyl acetate and water. The organic layer was washed with brine, dried with sodium sulfate, filtered, and concentrated under reduced pressure, yielding (3R,4R)-3-ethyl-N—((S)-1-phenylethyl)piperidin-4-amine (443 mg, 1.906 mmol, 91.0% yield) as a yellow oil. LCMS (Method E) m/z 233.3 ([M+H]+).

reactant | (3R,4R)-1-benzyl-3-ethyl-N—((S)-1-phenylethyl)piperidin-4-amine | 2.106 mmol, 679.2 mg | C(C1=CC=CC=C1)N1C[C@H]([C@@H](CC1)N[C@@H](C)C1=CC=CC=C1)CC | C22H30N2
reactant | 1-chloroethyl chloroformate | 2.53 mmol, 0.276 ml | ClC(=O)OC(C)Cl | C3H4Cl2O2
solvent | 1,2-dichloroethane | 3.50 ml | ClCCCl | C2H4Cl2
product | (3R,4R)-3-ethyl-N—((S)-1-phenylethyl)piperidin-4-amine | 1.906 mmol, 443 mg, 91.0% yield | C(C)[C@@H]1CNCC[C@H]1N[C@@H](C)C1=CC=CC=C1 | C15H24N2
